US05736534
4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-ylamine hydrochloride
N-[4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-yl]-formamide (1.0055 g, 3.10 mmol) was slurried into 20 mL methanol, treated with 20 mL 1N HCl in methanol, and stirred at room temperature for one hour. Dilution to 125 mL with diethyl ether afforded yellow solid, 0.8430 g (82%; another 0.089 g obtained from subsequent cooling of mother liquor): M.P. 289°-290° C. (dec); LC-MS: 297 (MH+), 299 ((M+2)H+).

reactant | N-[4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-yl]-formamide | 3.10 mmol, 1.0055 g | ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)NC=O | C17H13ClN4O
reactant | HCl | 1N, 20 mL | Cl | ClH
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | methanol | CO | CH4O
solvent | methanol | 20 mL | CO | CH4O
product | 4-(6-Chloro-2,3-dihydro-indol-1-yl)-quinazolin-6-ylamine hydrochloride | Cl.ClC1=CC=C2CCN(C2=C1)C1=NC=NC2=CC=C(C=C12)N | InChI=1S/C16H13ClN4.ClH/c17-11-2-1-10-5-6-21(15(10)7-11)16-13-8-12(18)3-4-14(13)19-9-20-16;/h1-4,7-9H,5-6,18H2;1H
